US08431607B2
(S)-3-[4-(6-Chloro-pyridazin-3-yloxy)-phenyl]-4-(3-trifluoromethyl-phenyl)-oxazolidin-2-one
A mixture of (S)-3-(4-hydroxy-phenyl)-4-(3-trifluoromethyl-phenyl)-oxazolidin-2-one (20 mg, 0.062 mmol), 3,6-dichloropyradazine (18.5 mg, 0.124 mmol) and K2CO3 (17 mg, 0.124 mmol) in DMF (0.5 mL) is heated to 80° C. for 2 h and then cooled down to room temperature. The mixture is then treated with saturated NH4Cl aqueous solution (4 mL) and extracted with EtOAc (3×2 mL). The combined organic layers were then concentrated and purified by preparative LC/MS to provide the desired product (S)-3-[4-(6-Chloro-pyridazin-3-yloxy)-phenyl]-4-(3-trifluoromethyl-phenyl)-oxazolidin-2-one. 1H NMR (CDCl3, 400 MHz) δ 7.50˜7.63 (m, 4H), 7.47 (d, 1H), 7.42 (d, 2H), 7.09˜7.15 (m, 3H), 5.46 (dd, 1H), 4.82 (t, 1H), 4.19 (dd, 1H); HPLC-MS calculated for C20H13ClF3N3O3 (M+H+) 436.1, found 436.1.

reactant | (S)-3-(4-hydroxy-phenyl)-4-(3-trifluoromethyl-phenyl)-oxazolidin-2-one | 0.062 mmol, 20 mg | OC1=CC=C(C=C1)N1C(OC[C@@H]1C1=CC(=CC=C1)C(F)(F)F)=O | C16H12F3NO3
reactant | K2CO3 | 0.124 mmol, 17 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | NH4Cl | 4 mL | [NH4+].[Cl-]
solvent | DMF | 0.5 mL | CN(C)C=O | C3H7NO
product | (S)-3-[4-(6-Chloro-pyridazin-3-yloxy)-phenyl]-4-(3-trifluoromethyl-phenyl)-oxazolidin-2-one | ClC1=CC=C(N=N1)OC1=CC=C(C=C1)N1C(OC[C@@H]1C1=CC(=CC=C1)C(F)(F)F)=O | C20H13ClF3N3O3
